US09290451B2
b) (S)-tert-Butyl 1-cyclopropyl-3-(2-methoxyethoxy)propan-2-ylcarbamate
NaH (70%, 0.504 g, 15 mmol) was added in portions to a solution of (S)-tert-butyl 1-cyclopropyl-3-hydroxypropan-2-ylcarbamate (1.6 g, 7.5 mmol) in THF (30 mL) at room temperature. The mixture was stirred at room temperature for 20 min. 1-Bromo-2-methoxyethane (2.07 g, 15 mmol) was added and stirring was continued for 2 h. The reaction was quenched by careful addition of H2O (5 mL). After evaporation of solvent the residue was diluted with ethyl acetate (20 mL) and H2O (20 mL). The organic layer was washed with brine (20 mL), dried over Na2SO4, and concentrated to give the title product as yellow oil (1.01 g, 50%); MS (EI): m/e=296.2 [M+Na]+.

reactant | NaH | 15 mmol, 0.504 g | [H-].[Na+]
reactant | (S)-tert-butyl 1-cyclopropyl-3-hydroxypropan-2-ylcarbamate | 7.5 mmol, 1.6 g | C1(CC1)C[C@@H](CO)NC(OC(C)(C)C)=O | C11H21NO3
reactant | 1-Bromo-2-methoxyethane | 15 mmol, 2.07 g | BrCCOC | C3H7BrO
solvent | THF | 30 mL | C1CCOC1 | C4H8O
product | (S)-tert-Butyl 1-cyclopropyl-3-(2-methoxyethoxy)propan-2-ylcarbamate | 1.01 g, 50% | C1(CC1)C[C@@H](COCCOC)NC(OC(C)(C)C)=O | C14H27NO4
